US08067445B2
Step 3: 2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-propionic acid ethyl ester
Prepared according to the procedure described in Example 95, Step 1, using the following starting materials: 2-(2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-propionic acid ethyl ester and benzyl isocyanate.

reactant | 2-(2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-propionic acid ethyl ester | C(C)OC(C(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C22H26F3NO3
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | 2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-propionic acid ethyl ester | C(C)OC(C(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C30H33F3N2O4
